US09145429B2
To a solution of (2-bromo-3-methyl-5-(tetrahydro-2H-pyran-2-yloxy)phenyl)methanol (2.54 g, 8.43 mmol) and 3,4 dihydro-2H-pyran (0.92 mL, 10.12 mmol) in CH2Cl2 (8 mL) was added camphorsulfonic acid (40 mg, 0.17 mmol), and the mixture was stirred at room temperature for 21 h. The reaction mixture was then quenched with equal volumes of 0.2 M NaOH and EtOAc (1:1, 20 mL) before the layers were separated. The water phase was further extracted with equal volume of EtOAc before the organic layers were combined and dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give 2-(4-bromo-3-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)tetrahydro-2H-pyran (2.93 g, 90%).

reactant | (2-bromo-3-methyl-5-(tetrahydro-2H-pyran-2-yloxy)phenyl)methanol | 8.43 mmol, 2.54 g | BrC1=C(C=C(C=C1C)OC1OCCCC1)CO | C13H17BrO3
reactant | 3,4 dihydro-2H-pyran | 10.12 mmol, 0.92 mL | O1CCCC=C1 | C5H8O
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | camphorsulfonic acid | 0.17 mmol, 40 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | 2-(4-bromo-3-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)tetrahydro-2H-pyran | 2.93 g, 90% | BrC1=C(C=C(OC2OCCCC2)C=C1COC1OCCCC1)C | C18H25BrO4
